data/oMe_Silver.jsonl
{"reaction_id": "NR-325_1-c1cnccc1_2-C(C)(C)C","level": "medium","name": "Wolff-Kishner Reduction","reactants_smiles": ["C(=O)(c1cnccc1)C(C)(C)C","NN","[OH-]"],"products_smiles": ["C(c1cnccc1)C(C)(C)C"],"conditions": "Strong base (e.g., KOH), High temperature","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(c1cnccc1)C(C)(C)C","step_weight": 0,"rationale": "The carbonyl carbon is electrophilic; hydrazine attacks to form a hydrazone, driven by resonance stabilization of the C=N bond and removal of the polar C=O under basic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](N=N)(c1cnccc1)C(C)(C)C","step_weight": 0,"rationale": "Strong base deprotonates the α-carbon of the hydrazone, favored by the adjacent electron-withdrawing N=N group stabilizing the carbanion via resonance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(N=N)(c1cnccc1)C(C)(C)C","step_weight": 0,"rationale": "Proton transfer to nitrogen occurs to prepare a good leaving group, as protonated nitrogen facilitates N₂ elimination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH-](c1cnccc1)C(C)(C)C","step_weight": 0,"rationale": "Elimination of N₂ gas is highly favorable due to its inertness and strong triple bond, driving formation of a carbanion intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)C(C)(C)C","step_weight": 0,"rationale": "The carbanion is protonated by solvent or conjugate acid, yielding the thermodynamically stable alkane product."}],"description": "Under strongly basic, high-temperature conditions, the Wolff–Kishner reduction converts a carbonyl into a methylene group via hydrazone formation, deprotonation, nitrogen elimination, and final protonation. The driving force is the formation of stable N₂ gas and the thermodynamic stability of the alkane."}
{"reaction_id": "NR-337_1-c2ccccc2_2-CC_3-C(F)(F)F_4-Cl_5-OCC","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(c2ccccc2)c(CC)c(C(F)(F)F)c(Cl)c1OCC","N#C[Cu]"],"products_smiles": ["c1(C#N)c(c2ccccc2)c(CC)c(C(F)(F)F)c(Cl)c1OCC"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(c2ccccc2)c(CC)c(C(F)(F)F)c(Cl)c1OCC","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(c2ccccc2)c(CC)c(C(F)(F)F)c(Cl)c1OCC","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
{"reaction_id": "NR-142_1-c1ccc(C#N)cc1C_2-C(C)(C)C_3-C","name": "Meisenheimer Rearrangement","level": "medium","reactants_smiles": ["[N+]([O-])(c1ccc(C#N)cc1C)(C(C)(C)C)(C)"],"products_smiles": ["N(Oc1ccc(C#N)cc1C)(C(C)(C)C)(C)"],"conditions": "Heat","mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "N(Oc1ccc(C#N)cc1C)(C(C)(C)C)(C)","rationale": "Thermal energy promotes a concerted [2,3]-sigmatropic shift, favored by the N-oxide’s ability to delocalize electron density and stabilize the transition state through resonance between nitrogen and oxygen."}],"description": "Upon heating, the N-oxide undergoes a [2,3]-sigmatropic rearrangement (Meisenheimer rearrangement), shifting the c1ccc(C#N)cc1C group from nitrogen to oxygen. This pericyclic process is thermally allowed and driven by the formation of a strong N–O bond and relief of electronic strain."}
